US07067540B2
(5-{[3-Bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}pyrazin-2-yl)methyl carbamate
To a suspension of 3-Bromo-4-[(2,4-difluorobenzyl)oxy]-1-{[5-(hydroxymethyl)pyrazin-2-yl]methyl}-6-methylpyridin-2(1H)-one (0.21 g, 0.00055 mol) in THF (5.0 mL) and DMF (2.0 mL), was added 4-nitrophenylchloroformate (0.1 g, 0.0005 mol) and cooled to 0° C. triethylamine (0.052 g, 0.0005 mol) was then added, stirred at room temperature for 1 h, and at 65° C. for an additional 1 h. It was cooled in an ice bath and added 2M ammonia in propanol (1.0 mL) and stirred at room temperature for 2 h. After the removal of the solvents under reduced pressure, the residue was partitioned between 5% sod. bicarbonate, and EtOAc (25 mL). The organic phase was washed with 5% sod. bicarbonate, (3×25 mL), water (3×25 mL), dried (Na2SO4) and concentrated under reduced pressure. The resulting substance was purified by isolated by reverse-phase HPLC using 10-90% CH3CN/Water (30 min gradient) at a flow rate of 100 mL/min. The appropriate fractions (m/z=495 M+H) were combined and freeze-dried, and the residue was partitioned between 5% sod. bicarbonate (20 mL) and EtOAc (25 mL). The organic phase was washed with water, dried (Na2SO4) and concentrated to dryness under reduced pressure, to afford the title compound as a white powder (0.065 g):

reactant | 3-Bromo-4-[(2,4-difluorobenzyl)oxy]-1-{[5-(hydroxymethyl)pyrazin-2-yl]methyl}-6-methylpyridin-2(1H)-one | 0.00055 mol, 0.21 g | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC1=NC=C(N=C1)CO)=O | C19H16BrF2N3O3
reactant | 4-nitrophenylchloroformate | 0.0005 mol, 0.1 g | C1=CC(=CC=C1[N+](=O)[O-])[Cl-]C(=O)[O-]
reactant | triethylamine | 0.0005 mol, 0.052 g | C(C)N(CC)CC | C6H15N
reactant | ammonia | 2M | N | H3N
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | propanol | 1.0 mL | C(CC)O | C3H8O
solvent | CH3CN Water | CC#N.O
product | (5-{[3-Bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]methyl}pyrazin-2-yl)methyl carbamate | 0.065 g | C(N)(OCC1=NC=C(N=C1)CN1C(C(=C(C=C1C)OCC1=C(C=C(C=C1)F)F)Br)=O)=O | C20H17BrF2N4O4
